US03979428
α-Diethylcarbamylthio-3-chloro-4-cyclohexylphenylacetic acid
When diethylcarbamylchloride is replaced in the above procedure by carbamyl chloride (prepared in situ from potassium cyanate and anhydrous hydrogen chloride in anhydrous chloroform), ethylcarbamyl chloride or dimethylcarbamyl chloride, then the products prepared are α-carbamylthio-3-chloro-4-cyclohexylphenylacetic acid, α-ethylcarbamylthio-3-chloro-4-cyclohexylphenylacetic acid or α-dimethylcarbamylthio-3-chloro-4-cyclohexylphenylacetic acid.

reactant | diethylcarbamylchloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | carbamyl chloride | C(N)(=O)Cl | CH2ClNO
reactant | ethylcarbamyl chloride | C(C)NC(=O)Cl | C3H6ClNO
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | α-carbamylthio-3-chloro-4-cyclohexylphenylacetic acid | C(N)(=O)SC(C(=O)O)C1=CC(=C(C=C1)C1CCCCC1)Cl | C15H18ClNO3S
reactant | α-ethylcarbamylthio-3-chloro-4-cyclohexylphenylacetic acid | C(C)NC(=O)SC(C(=O)O)C1=CC(=C(C=C1)C1CCCCC1)Cl | C17H22ClNO3S
reactant | α-dimethylcarbamylthio-3-chloro-4-cyclohexylphenylacetic acid | CN(C(=O)SC(C(=O)O)C1=CC(=C(C=C1)C1CCCCC1)Cl)C | C17H22ClNO3S
product | α-Diethylcarbamylthio-3-chloro-4-cyclohexylphenylacetic acid | C(C)N(C(=O)SC(C(=O)O)C1=CC(=C(C=C1)C1CCCCC1)Cl)CC | C19H26ClNO3S
